US05441964
200 mg of aluminum chloride is added to 20 mL of dichloromethane, and while this mixture is being agitated at 0° C., 10 mL of a dichloromethane solution of 0.3 mL of oxalyl chloride is added dripwise and agitated for ten minutes at 0° C. 2 mL of a dichloromethane solution of 100 mg of 4-phenylbutylpyrrolidine is added dropwise and agitated for 30 minutes at room temperature. Water is added, and the organic layer is extracted with dichloromethane and dried with anhydrous magnesium sulfate, after which it is condensed. The residue is dissolved in 20 mL of dichloromethane, 100 mg of 6-methoxy-2-cyclohexylbenzo[b]thiophene and 200 mg of aluminum chloride are added, and this mixture is agitated for two hours at room temperature. 1 mL of THF, 0.3 mL of 20% hydrochloric acid, and 1 mL of water are added to the reaction mixture at 25° C. or below, after which a saturated aqueous solution of sodium hydrogencarbonate is added to render the solution alkaline, and the organic layer is extracted with dichloromethane and dried with anhydrous magnesium sulfate. The solvent is distilled off, and the crude product thus obtained is refined by TLC (developing solvent was chloroform: n-hexane=1:5), which gives 54 mg of (6-methoxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[3-(1-pyrrolidinylcarbonyl)propyl]phenyl]methanone.

reactant | aluminum chloride | 200 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | oxalyl chloride | 0.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-phenylbutylpyrrolidine | 100 mg | C1(=CC=CC=C1)CCCCN1CCCC1 | C14H21N
reactant | 6-methoxy-2-cyclohexylbenzo[b]thiophene | 100 mg | COC=1C=CC2=C(SC(=C2)C2CCCCC2)C1 | C15H18OS
reactant | aluminum chloride | 200 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 0.3 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | n-hexane | CCCCCC | C6H14
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 1 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (6-methoxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[3-(1-pyrrolidinylcarbonyl)propyl]phenyl]methanone | 54 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)CCCC(=O)N2CCCC2)C2CCCCC2)C1 | C30H35NO3S
